US05134111
Ethyl (E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)propenoate
To a solution of 1.3 g of ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)propenoate in ethanol (10 ml) was added 1 ml of concentrated hydrochloric acid and stirred at room temperature for 2 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. After evaporation, hexane was added for crystallization to obtain 0.76 g of the titled compound as pale yellow crystals.

reactant | ethyl (E)-3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)propenoate | 1.3 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C=C/C(=O)OCC)OC)OCOC | C20H24O5
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | Water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl (E)-3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)propenoate | 0.76 g | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C=C/C(=O)OCC)OC)O | C18H20O4
